US06878729B2
2-(5-Phenyl-1-pyridin-2-yl-4,5-dihydro-1H-pyrazol-3-yl)-phenol
Example 3 is prepared using 2-hydroxychalcone and 2-hydrazinopyridine following the procedure described for Example 1.

reactant | 2-hydroxychalcone | OC1=C(C=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
product | 2-(5-Phenyl-1-pyridin-2-yl-4,5-dihydro-1H-pyrazol-3-yl)-phenol | C1(=CC=CC=C1)C1CC(=NN1C1=NC=CC=C1)C1=C(C=CC=C1)O | C20H17N3O
